US03950522
Allylamine (3.1 g.) is added with stirring to 4.0 g. of 2-(2-pyridyl)thioacetamide in 20 ml. of water at 0°C. The resulting mixture is allowed to stand overnight at 5°C., then 5 ml. of ethanol is added. The mixture is stirred for 5 hours and then extracted with dichloromethane. The extracts are dried and concentrated and the residue is chromatographed on a silica gel "dry-column" to give N-allyl-2-(2-pyridyl)thioacetamide.

reactant | Allylamine | 3.1 g | C(C=C)N | C3H7N
reactant | 2-(2-pyridyl)thioacetamide | N1=C(C=CC=C1)CC(=S)N | C7H8N2S
reactant | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | N-allyl-2-(2-pyridyl)thioacetamide | C(C=C)NC(CC1=NC=CC=C1)=S | C10H12N2S
